US09290517B2
Step B: 2-chloro-8-(methylsulfonyl)-7H-purine
To a stirring solution of 2-chloro-8-(methylthio)-7H-purine (700.0 mg, 3.49 mmol) in 50% CH3CN/water (44.8 mL) was added potassium peroxymonosulfate (oxone, 4.72 g, 7.68 mmol). The reaction was stirred under N2 at RT for 17 h, then filtered and the filtrate was added to a stirring EtOAc (1 L)/water (0.56 L) mixture. The aqueous layer was separated and back-extracted with EtOAc (0.2 L). The combined organic layers were evaporated under reduced pressure to afford the title compound. LC-MS: calculated for C6H5ClN4O2S 231.98 observed m/e: 233.11 (M+H)+ (Rt 0.58/2.0 min).

reactant | 2-chloro-8-(methylthio)-7H-purine | 3.49 mmol, 700.0 mg | ClC1=NC=C2NC(=NC2=N1)SC | C6H5ClN4S
reactant | potassium peroxymonosulfate | 7.68 mmol, 4.72 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | CH3CN water | 44.8 mL | CC#N.O
product | 2-chloro-8-(methylsulfonyl)-7H-purine | ClC1=NC=C2NC(=NC2=N1)S(=O)(=O)C | C6H5ClN4O2S
